US04352818
1.06 g (5 mmol) of 4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one are stirred at 90° for 40 hours together with 1.26 g of iodine in 20 ml of dimethylformamide. The mixture is poured into water and extracted three times with chloroform. The chloroform extracts are washed five times with water, dried over magnesium sulphate and evaporated. By chromatography of the residue on a silica gel column there is obtained 4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 174°-176°.

reactant | 4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 5 mmol, 1.06 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2 | C12H11N3O
reactant | iodine | 1.26 g | II | I2
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | IC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C12H10IN3O
